US06057349
N-(3-cyanomethoxy-2-methylphenyl)-methanesulfonamide was prepared from (2-methyl-3-aminophenoxy)acetonitrile in a manner similar to that described in Example 1 for the preparation of N-(3-cyanomethoxyphenyl)-methanesulfonamide from (3-aminophenoxy)-acetonitrile.

reactant | (2-methyl-3-aminophenoxy)acetonitrile | CC1=C(OCC#N)C=CC=C1N | C9H10N2O
reactant | N-(3-cyanomethoxyphenyl)-methanesulfonamide | C(#N)COC=1C=C(C=CC1)NS(=O)(=O)C | C9H10N2O3S
reactant | (3-aminophenoxy)-acetonitrile | NC=1C=C(OCC#N)C=CC1 | C8H8N2O
product | N-(3-cyanomethoxy-2-methylphenyl)-methanesulfonamide | C(#N)COC=1C(=C(C=CC1)NS(=O)(=O)C)C | C10H12N2O3S
